US07816391B2
A 1M solution of solution of lithium bis(trimethylsilyl)amide in THF (22.84 ml, 22.84 mmol) was added to THF (25 mL) and cooled under nitrogen to −78° C. A solution of 3,3-dimethyl-2-butanone (2.287 g, 22.84 mmol) in THF (25 mL) was added drop wise over a period of 5 minutes. The resulting solution was stirred at −78° C. under nitrogen for 15 minutes. A solution of 2-isocyanatoadamantane (prepared from 2-adamantylamine hydrochloride by the method of R. Reck & C. Jochims Chem. Ber. 115 (1982) p 864) (3.68 g, 20.76 mmol) in THF (20 mL) was added over a period of 5 minutes. The resulting solution was stirred at −78° C. for 1 hour and then allowed to warm to 20° C. over 1 h. The reaction mixture was poured into saturated NH4Cl (150 mL) and extracted with EtOAc (2×100 mL), the organic layer was washed with water (50 mL) and brine (50 mL) dried over MgSO4, filtered and evaporated to afford a yellow oil. The crude product was purified by flash silica chromatography, elution gradient 0 to 50% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford N-(2-adamantyl)-4,4-dimethyl-3-oxo-pentanamide (4.64 g, 81%) as a white solid.

reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3,3-dimethyl-2-butanone | 22.84 mmol, 2.287 g | CC(C(C)=O)(C)C | C6H12O
reactant | 2-isocyanatoadamantane | N(=C=O)C1C2CC3CC(CC1C3)C2 | C11H15NO
reactant | 2-adamantylamine hydrochloride | Cl.C12C(C3CC(CC(C1)C3)C2)N
reactant | NH4Cl | 150 mL | [NH4+].[Cl-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 22.84 mmol, 22.84 ml | C1CCOC1 | C4H8O
product | N-(2-adamantyl)-4,4-dimethyl-3-oxo-pentanamide | 4.64 g, 81% | C12C(C3CC(CC(C1)C3)C2)NC(CC(C(C)(C)C)=O)=O | C17H27NO2
